US08604029B2
To a stirred solution of 2-furan-2-yl-ethanol (1.6 g, 14.0 mmol) in a mixture of pyridine (5 mL) and chloroform (15 mL) was added para-toluenesulfonyl chloride (5.5 g, 28.0 mmol) and heated at 60° C. for 3 hrs. The reaction was cooled and concentrated in vacuo. The residue was dissolved in ethyl acetate and washed with water, sat. sodium bicarbonate solution and dried over anhydrous sodium sulfate. The filtrate was concentrated, and the crude compound purified by column chromatography over silica gel (60-120 mesh) using 10% ethyl acetate/petroleum ether as eluent to afford toluene-4-sulfonic acid 2-furan-2-yl-ethyl ester (2.0 g, 32%) as an oil.

reactant | 2-furan-2-yl-ethanol | 14.0 mmol, 1.6 g | O1C(=CC=C1)CCO | C6H8O2
reactant | para-toluenesulfonyl chloride | 28.0 mmol, 5.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | toluene-4-sulfonic acid 2-furan-2-yl-ethyl ester | 2.0 g, 32% | O1C(=CC=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C13H14O4S
